US08383637B2
[3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester
A mixture of [3-(4-amino-3-propylaminomethyl-phenoxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester (0.0018 mol) and cyanogen bromide (0.00234 mol) in ethanol (60 mL) was stirred and refluxed for 3 hours and then was cooled. The ethanol solvent was evaporated. The residue was triturated under diisopropyl ether and ethanol, filtered off, and dried to yield the title compound as a solid.

reactant | [3-(4-amino-3-propylaminomethyl-phenoxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester | 0.0018 mol | C(C1=CC=CC=C1)OC(N(C1CCCCC1)C1=CC(=CC=C1)OC1=CC(=C(C=C1)N)CNCCC)=O | C30H37N3O3
reactant | cyanogen bromide | 0.00234 mol | N#CBr | CBrN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | [3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1CCCCC1)C1=CC(=CC=C1)OC=1C=C2CN(C(=NC2=CC1)N)CCC)=O | C31H36N4O3
